US07354933B2
Preparation of (R)-5-(4-hydroxybenzyl)-1-pyrid-4-ylmethyl-3-(4-trifluoromethanesulfonylphenyl)imidazolidine-2,4-dione trifluoroacetate
The compound is prepared from 0.05 mmol of resin, 0.15 mmol of N-Fmoc-D-Tyr(OH), 0.25 mmol of 4-pyridinecarboxaldehyde and 0.125 mmol of 4-(trifluoromethanesulfonyl)aniline, in the same way as in Example 1. After purification by preparative LC-MS, 0.7 mg of expected product is obtained.

reactant | N-Fmoc-D-Tyr(OH) | 0.15 mmol | N([C@H](CC1=CC=C(C=C1)O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C24H21NO5
reactant | 4-pyridinecarboxaldehyde | 0.25 mmol | N1=CC=C(C=C1)C=O | C6H5NO
reactant | 4-(trifluoromethanesulfonyl)aniline | 0.125 mmol | FC(S(=O)(=O)C1=CC=C(N)C=C1)(F)F | C7H6F3NO2S
product | (R)-5-(4-hydroxybenzyl)-1-pyrid-4-ylmethyl-3-(4-trifluoromethanesulfonylphenyl)imidazolidine-2,4-dione trifluoroacetate | 0.7 mg | FC(C(=O)O)(F)F.OC1=CC=C(C[C@@H]2C(N(C(N2CC2=CC=NC=C2)=O)C2=CC=C(C=C2)S(=O)(=O)C(F)(F)F)=O)C=C1 | InChI=1S/C23H18F3N3O5S.C2HF3O2/c24-23(25,26)35(33,34)19-7-3-17(4-8-19)29-21(31)20(13-15-1-5-18(30)6-2-15)28(22(29)32)14-16-9-11-27-12-10-16;3-2(4,5)1(6)7/h1-12,20,30H,13-14H2;(H,6,7)/t20-;/m1./s1
